US04308092
3-dimethylamino-2,2-dimethyl-propyl methacrylate
Methacrylate of N-hydroxyethyl-2,4,4-trimethyl-pyrrolidine

reactant | Methacrylate | C(C(=C)C)(=O)[O-]
reactant | N-hydroxyethyl-2,4,4-trimethyl-pyrrolidine | OCCN1C(CC(C1)(C)C)C | C9H19NO
product | 3-dimethylamino-2,2-dimethyl-propyl methacrylate | C(C(=C)C)(=O)OCC(CN(C)C)(C)C | C11H21NO2
